* Auto-generated testbench for bridge circuit: h_bridge
* Half-bridge: dQ3 (high, NMOS) / dQ4 (low, NMOS)
* Model: generic FET models — real Vth/Rds depends on specific part

* Generic semiconductor models for Phase 1 simulation
.model D_GENERIC D(IS=1e-14 N=1.05 BV=100 IBV=1e-10)
.model D_SCHOTTKY D(IS=1e-6 N=1.05 BV=40 IBV=1e-8 RS=0.5)
.model D_ZENER3V3 D(IS=1e-14 N=1.05 BV=3.3 IBV=5e-3)
.model D_ZENER5V1 D(IS=1e-14 N=1.05 BV=5.1 IBV=5e-3)
.model NPN_GENERIC NPN(IS=1e-14 BF=200 VAF=100 CJC=5p CJE=10p TF=0.3n)
.model PNP_GENERIC PNP(IS=1e-14 BF=200 VAF=100 CJC=5p CJE=10p TF=0.6n)
.model NMOS_GENERIC NMOS(VTO=1.5 KP=1e-2 LAMBDA=0.01)
.model PMOS_GENERIC PMOS(VTO=-1.5 KP=5e-3 LAMBDA=0.01)


* Supply
VDD vdd 0 DC 5

* Low-side FET: gate swept, drain to mid, source to ground
MdQ4 mid lo_gate 0 0 NMOS_GENERIC L=1u W=100u
* High-side kept off (gate tied to source/ground)
MdQ3 vdd hi_gate mid mid NMOS_GENERIC L=1u W=100u
Rhi_gnd hi_gate 0 100k

* Load resistor at output
Rload mid 0 100

* Gate sweep source
Vgate lo_gate 0 DC 0

.control
dc Vgate 0 5 0.05
let id_lo = abs(i(VDD))
meas dc vth_lo when id_lo=100u
meas dc id_on find id_lo at=5
echo "vth_lo=$&vth_lo id_on=$&id_on v_supply=5 topology=h_bridge" > C:/Users/samch/Documents/GitHub/SWARM_COMMs/SWARM_PCB_Rev_2/spice_runs/bridge-circuit_idx0.out
quit
.endc

.end
